US06573274B1
3-Chloro-4-methylaniline (100.0 g) was dissolved in tetrahydrofuran (500 ml) and di-tert-butyl dicarbonate (200.0 g) was added. The mixture was refluxed under heating for 3 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate (1300 ml) and washed successively with 10% aqueous citric acid solution (500 ml), saturated aqueous sodium hydrogen carbonate solution (500 ml) and saturated brine (500 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added hexane (300 ml) and the precipitated crystals were collected by filtration to give N-(tert-butoxycarbonyl)-3-chloro-4-methylaniline (150.4 g) as colorless crystals.

reactant | 3-Chloro-4-methylaniline | 100.0 g | ClC=1C=C(N)C=CC1C | C7H8ClN
reactant | di-tert-butyl dicarbonate | 200.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-(tert-butoxycarbonyl)-3-chloro-4-methylaniline | 150.4 g | C(C)(C)(C)OC(=O)NC1=CC(=C(C=C1)C)Cl | C12H16ClNO2
